US07375138B2
a) Methyl 2-chloro-4-pentafluorosulfanylbenzoate
4.3 g of 2-chloro-4-pentafluorosulfanylbenzoic acid were dissolved in 50 ml of methanol and, at RT, 5.6 ml of SOCl2 were slowly added dropwise. After boiling under reflux for 6 hours and removal of the volatile constituents in vacuo, the residue was taken up in 100 ml of toluene, and the volatile constituents were again removed in vacuo. 4.1 g of a colorless oil were obtained.

reactant | 2-chloro-4-pentafluorosulfanylbenzoic acid | 4.3 g | ClC1=C(C(=O)O)C=CC(=C1)S(F)(F)(F)(F)F | C7H4ClF5O2S
reactant | SOCl2 | 5.6 ml | O=S(Cl)Cl | Cl2OS
reactant | methanol | 50 ml | CO | CH4O
product | Methyl 2-chloro-4-pentafluorosulfanylbenzoate | 4.1 g | ClC1=C(C(=O)OC)C=CC(=C1)S(F)(F)(F)(F)F | C8H6ClF5O2S
